US07902379B2
(S)—N,N-Dimethyl-2-methylamino-propionamide hydrochloride
To a solution of (S)-Boc-N-Me-Ala-OH (9.8 mmol, 2.00 g, from Bachem) in DMF (10 mL) were added 1-Hydroxy-1H-benzotriazole (10.8 mmol, 1.46 g) and EDCI (10.8 mmol, 2.08 g). The reaction mixture was stirred for 10 min before a 2M solution of dimethylamine in THF (11.8 mmol, 5.9 mL) was added. After stirring for 18 h at room temperature, water was added and the mixture was extracted several times with ethyl acetate. The combined organic layers were washed with 1N aqueous hydrochloric acid, aqueous sodium bicarbonate solution and water. After drying over magnesium sulfate, the volatiles were removed in vacuo. Yield: 1.86 g of a colorless oil (82%). The Boc-protected coupling product was dissolved in MeOH (19 mL) and treated with a 4N solution of HCl in dioxane (32.3 mmol, 8.1 mL). After stirring for 18 h at room temperature, the reaction mixture was evaporated to dryness to leave 1.41 g of a white solid (quantitative yield).

reactant | 1-Hydroxy-1H-benzotriazole | 10.8 mmol, 1.46 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCI | 10.8 mmol, 2.08 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | dimethylamine | CNC | C2H7N
reactant | THF | 11.8 mmol, 5.9 mL | C1CCOC1 | C4H8O
reactant | HCl | Cl | ClH
reactant | dioxane | 32.3 mmol, 8.1 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)—N,N-Dimethyl-2-methylamino-propionamide hydrochloride | 1.41 g, quantitative yield | Cl.CN(C([C@H](C)NC)=O)C | InChI=1S/C6H14N2O.ClH/c1-5(7-2)6(9)8(3)4;/h5,7H,1-4H3;1H/t5-;/m0./s1
